US07645789B2
2-tert-Butyl-N-methyl-1H-indol-5-amine (20.2 mg, 0.100 mmol) and 1-(benzo[d][1,3]dioxol-5-yl)cyclopropanecarboxylic acid (20.6 mg, 0.100 mmol) were dissolved in N,N-dimethylformamide (1 mL) containing triethylamine (42.1 μL, 0.300 mmol) and a magnetic stir bar. O-(7-Azabenzotriazol-1-yl)-N,N′,N′-tetramethyluronium hexafluorophosphate (42 mg, 0.11 mmol) was added to the mixture and the resulting solution was allowed to stir for 16 h at 80° C. The crude product was then purified by preparative HPLC utilizing a gradient of 0-99% acetonitrile in water containing 0.05% trifluoroacetic acid to yield 1-(benzo[d][1,3]dioxol-5-yl)-N-(2-tert-butyl-1H-indol-5-yl)-N-methylcyclopropanecarboxamide. ESI-MS m/z calc. 390.2, found 391.3 (M+1)+. Retention time of 3.41 minutes.

reactant | 2-tert-Butyl-N-methyl-1H-indol-5-amine | 0.100 mmol, 20.2 mg | C(C)(C)(C)C=1NC2=CC=C(C=C2C1)NC | C13H18N2
reactant | 1-(benzo[d][1,3]dioxol-5-yl)cyclopropanecarboxylic acid | 0.100 mmol, 20.6 mg | O1COC2=C1C=CC(=C2)C2(CC2)C(=O)O | C11H10O4
reactant | triethylamine | 0.300 mmol, 42.1 μL | C(C)N(CC)CC | C6H15N
solvent | N,N-dimethylformamide | 1 mL | CN(C=O)C | C3H7NO
product | 1-(benzo[d][1,3]dioxol-5-yl)-N-(2-tert-butyl-1H-indol-5-yl)-N-methylcyclopropanecarboxamide | O1COC2=C1C=CC(=C2)C2(CC2)C(=O)N(C)C=2C=C1C=C(NC1=CC2)C(C)(C)C | C24H26N2O3
